US07645881B2
3-Cyano-5-ethyl-4,6-dimethylthieno[2,3-b]pyridine-2-carboxylic acid (1.00 g, 3.85 mmol) was mixed with triethylamine (0.78 g, 1.07 mL, 7.69 mmol), diphenylphosphoryl azide (2.12 g, 7.69 mmol) and anhydrous t-butanol (15 mL). The mixture was stirred at 80° C. for 8 h, followed by the removal of the volatiles under vacuum. To the residue was added dichloromethane (150 mL) and saturated NaHCO3 (40 mL), and the mixture was filtered after stirring at room temperature for 0.5 h. The organics were separated from the filtrate and dried over anhydrous Na2SO4. After removal of the solvent, the residue was chromatographed to give (3-cyano-5-ethyl-4,6-dimethyl-thieno[2,3-b]pyridin-2-yl)-carbamic acid tert-butyl ester. MS (ES+) m/z: 332.

reactant | 3-Cyano-5-ethyl-4,6-dimethylthieno[2,3-b]pyridine-2-carboxylic acid | 3.85 mmol, 1.00 g | C(#N)C1=C(SC2=NC(=C(C(=C21)C)CC)C)C(=O)O | C13H12N2O2S
reactant | triethylamine | 7.69 mmol, 1.07 mL, 0.78 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 7.69 mmol, 2.12 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | t-butanol | 15 mL | C(C)(C)(C)O | C4H10O
product | (3-cyano-5-ethyl-4,6-dimethyl-thieno[2,3-b]pyridin-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=2C(=NC(=C(C2C)CC)C)S1)C#N)=O | C17H21N3O2S
